US06514968B1
Preparation 38 2-[(9-Benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethylformamide
A mixture of 2-[(9-benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethylamine (0.2974 g, 0.90 mmol), dichloromethane (4 mL) and ethyl formate (4 mL) is heated at 62° C. Additional dichloromethane (6 mL) and ethyl formate (6 mL) are added. After 4 h, the mixture is concentrated to dryness and the residue is chromatographed on silica gel (100 mL) using methanol/dichloromethane (4/96). The resulting solids are recrystallized from ethyl acetate/dichloromethane/hexane to give 0.2716 g (84%) of the title compound; 1H NMR (CDCl3) δ2.55, 3.94, 4.36, 5.48, 6.11, 6.64, 6.99, 7.11, 7.24, 7.32, 8.06, 8.28.

reactant | 2-[(9-benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethylamine | 0.90 mmol, 0.2974 g | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)OCCN)C | C22H22N2O
reactant | ethyl formate | 4 mL | C(=O)OCC | C3H6O2
reactant | ethyl formate | 6 mL | C(=O)OCC | C3H6O2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-[(9-Benzyl-6-methyl-9H-carbazol-4-yl)oxy]ethylformamide | 0.2716 g, 84% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)OCCNC=O)C | C23H22N2O2
